US04720500
The procedure is analogous to that described in Example 1, but starting with phenylacetic acid (10.9 g), N,N'-carbonyldiimidazole (13 g) and 2-amino-7-chloro-1,8-naphthyridine (10.8 g). The product obtained by precipitation in water (13.5 g; m.p. 184° C.) is dissolved in boiling acetonitrile (210 cc). After cooling for 1 hour at 4° C., the crystallized solid is separated by filtration, washed with acetonitrile (10 cc) and dried at 45° C. under reduced pressure (0.07 kPa). N-(7-Chloro-1,8-naphthyridin-2-yl)phenylacetamide (11.3 g), m.p. 187° C., is obtained.

reactant | phenylacetic acid | 10.9 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 10.8 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | acetonitrile | 210 cc | C(C)#N | C2H3N
solvent | water | 13.5 g | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)phenylacetamide | 11.3 g | ClC1=CC=C2C=CC(=NC2=N1)NC(CC1=CC=CC=C1)=O | C16H12ClN3O
